US04731471
{[9a-(2-Acetoxyethyl)-5,6-dichloro-3-oxo-2,3,9,9a-tetrahydro-1H-fluoren-7-yl]oxy}acetic acid
A solution of dry tetrahydrofuran (50 ml) containing acetic acid (6.6 mg, 11 mMole) is treated with 1,1'-carbonyldiimidazole (178 mg; 11 mMole) and the mixture stirred under anhydrous conditions for 30 minutes. {[5,6-Dichloro-9a-(2-hydroxyethyl)-3-oxo-2,3,9,9a-tetrahydro-1H-fluoren-7-yl]oxy}acetic acid (3.71 g, 10 mMole) is added and the mixture stirred for 16 hours. The solvent is removed by evaporation at reduced pressure. The residue is dissolved in methylene chloride, treated with 11 mM of HCl, washed with water, and dried over MgSO4. The solvent is removed by evaporation at reduced pressure to give the desired product which is recrystallized from acetonitrile.

reactant | acetic acid | 11 mMole, 6.6 mg | C(C)(=O)O | C2H4O2
reactant | 1,1'-carbonyldiimidazole | 11 mMole, 178 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | {[5,6-Dichloro-9a-(2-hydroxyethyl)-3-oxo-2,3,9,9a-tetrahydro-1H-fluoren-7-yl]oxy}acetic acid | 10 mMole, 3.71 g | ClC1=C2C3=CC(CCC3(CC2=CC(=C1Cl)OCC(=O)O)CCO)=O | C17H16Cl2O5
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | {[9a-(2-Acetoxyethyl)-5,6-dichloro-3-oxo-2,3,9,9a-tetrahydro-1H-fluoren-7-yl]oxy}acetic acid | C(C)(=O)OCCC12CC3=CC(=C(C(=C3C2=CC(CC1)=O)Cl)Cl)OCC(=O)O | C19H18Cl2O6
